US04182714
Following a procedure similar to that described in Example 2B but employing 10.0 g of 2-(1-ethyl-2-methyl-3-indolylcarbonyl)benzoic acid and 13.0 g of 4,4'-dioctyldiphenylamine there was obtained a quantitative yield of 3-(1-ethyl-2-methyl-3-indolyl)-3-[N,N-bis-(4-octylphenyl)amino]phthalide, m.p. 106°-108° C. A toluene solution of the product contacted with acidic clay or phenolic resin developed a yellow-colored image.

reactant | 2-(1-ethyl-2-methyl-3-indolylcarbonyl)benzoic acid | 10.0 g | C(C)N1C(=C(C2=CC=CC=C12)C(=O)C1=C(C(=O)O)C=CC=C1)C | C19H17NO3
reactant | 4,4'-dioctyldiphenylamine | 13.0 g | CCCCCCCCC1=CC=C(C=C1)NC2=CC=C(C=C2)CCCCCCCC | C28H43N
product | 3-(1-ethyl-2-methyl-3-indolyl)-3-[N,N-bis-(4-octylphenyl)amino]phthalide | quantitative yield | C(C)N1C(=C(C2=CC=CC=C12)C1(OC(=O)C2=CC=CC=C12)N(C1=CC=C(C=C1)CCCCCCCC)C1=CC=C(C=C1)CCCCCCCC)C | C47H58N2O2
